US08710242B2
Ethyl 4-amino-2-chloro-5-iodobenzoate
An iodine solution in ethanol was admixed with silver(I) sulphate and ethyl 4-amino-2-chlorobenzoate and then stirred at room temperature for 45 min. The reaction mixture was filtered through a frit and the filtrate was concentrated under reduced pressure. The residue was slurried in EtOAc and admixed with dilute sodium hydrogencarbonate solution. Once everything had gone into solution, the aqueous phase was removed and sodium thiosulphate was dissolved therein. The organic phase was washed again with the aqueous phase, and the aqueous phase was extracted with ethyl acetate. The combined organic phases were dried over sodium sulphate, littered and concentrated under reduced pressure. Column chromatography purification on silica gel with cyclohexane/ethyl acetate as the eluent (gradient from 10% ethyl acetate to 33% ethyl acetate).

reactant | iodine | II | I2
reactant | ethyl 4-amino-2-chlorobenzoate | NC1=CC(=C(C(=O)OCC)C=C1)Cl | C9H10ClNO2
solvent | ethanol | C(C)O | C2H6O
catalyst | silver(I) sulphate | S(=O)(=O)([O-])[O-].[Ag+].[Ag+]
product | Ethyl 4-amino-2-chloro-5-iodobenzoate | NC1=CC(=C(C(=O)OCC)C=C1I)Cl | C9H9ClINO2
